US07365085B2
a) 3-Methoxy-N,N,-dimethyl-benzenesulfonamide
Dimethylamine (40% in H2O, 1 mL) was added to a solution of 3-methoxybenzenesulfonyl chloride (0.50 g, 2.4 mmol) and pyridine (1 mL) in THF (5 mL). The reaction mixture was allowed to stir at rt for 48 h, then was poured into H2O and extracted with EtOAc. The organic extracts were washed with brine, dried (MgSO4), filtered and concentrated to give an oil which was chromatographed (10-80% EtOAc in hexane) to give 0.400 g (76%) of the title compound. MS (ESI) 216 (M+H+).

reactant | Dimethylamine | 1 mL | CNC | C2H7N
reactant | 3-methoxybenzenesulfonyl chloride | 2.4 mmol, 0.50 g | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | H2O | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-Methoxy-N,N,-dimethyl-benzenesulfonamide | 0.400 g, 76% | COC=1C=C(C=CC1)S(=O)(=O)N(C)C | C9H13NO3S
